US08026234B2
Compound 5: 4-(9-cyclopentyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-N-(1-(2-hydroxyethyl)piperidin-4-yl)-3-methoxybenzamide
The title compound was synthesized from 4-(9-Cyclopentyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[5,4-b][1,4]diazepin-2-ylamino)-3-methoxybenzoic acid as described in the General procedure for amide bond synthesis using HATU and 4-amino piperidine 1-ethanol. The final compound was purified by reverse phase HPLC and basified to give the free base. 1H NMR (400 MHz, DMSO-d6) δ ppm 1.44-2.07 (m, 12H) 2.38 (t, J=6.32 Hz, 2H) 2.89 (d, J=11.37 Hz, 2H) 3.27-3.34 (s, 3H) 3.49 (q, J=6.06 Hz, 2H) 3.65-3.83 (m, 1H) 3.93 (s, 2H) 3.97-4.14 (m, 2H) 4.37 (t, J=5.31 Hz, 1H) 4.76 (t, J=7.83 Hz, 1H) 7.48 (d, J=8.0 Hz, 1H), 7.49 (br. s., 1H) 7.96 (s, 1H) 8.12 (d, J=7.83 Hz, 1H)), 8.26 (s, 1H) 8.27 (d, J=8.0 Hz, 1H). [M+H] calculated for C28H37F2N7O4, 574. found 574.

reactant | 4-(9-Cyclopentyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[5,4-b][1,4]diazepin-2-ylamino)-3-methoxybenzoic acid | C1(CCCC1)N1C2=C(N(C(C(C1)(F)F)=O)C)C=NC(=N2)NC2=C(C=C(C(=O)O)C=C2)OC | C21H23F2N5O4
reactant | HATU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 4-amino piperidine 1-ethanol | NC1CCN(CC1)CCO | C7H16N2O
product | 4-(9-cyclopentyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-N-(1-(2-hydroxyethyl)piperidin-4-yl)-3-methoxybenzamide | C1(CCCC1)N1C2=C(N(C(C(C1)(F)F)=O)C)C=NC(=N2)NC2=C(C=C(C(=O)NC1CCN(CC1)CCO)C=C2)OC | C28H37F2N7O4
